US07888352B2
To a solution of 4-methylamino-piperidine-1-carboxylic acid tert-butyl ester (1.72 g, 8 mmol) in dichloromethane (10 mL) was added triethylamine (1.30 mL, 8.8 mmol) followed by methanesulphonyl chloride (0.68 mL, 8.8 mmol). After stirring for 16 hours the reaction mixture was then diluted with dichloromethane, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography using 50% ethyl acetate in petroleum ether as the eluent to yield 4-(methanesulfonyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester as a white solid (1.85 g, 75%). Treatment of this compound with trifluoroacetic acid in dichloromethane yielded N-methyl-N-piperidin-4-yl-methanesulfonamide, which was isolated as the TFA salt.

reactant | 4-methylamino-piperidine-1-carboxylic acid tert-butyl ester | 8 mmol, 1.72 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC | C11H22N2O2
reactant | triethylamine | 8.8 mmol, 1.30 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 8.8 mmol, 0.68 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4-(methanesulfonyl-methyl-amino)-piperidine-1-carboxylic acid tert-butyl ester | 1.85 g, 75% | C(C)(C)(C)OC(=O)N1CCC(CC1)N(C)S(=O)(=O)C | C12H24N2O4S
